US04655819
(ii) n-Propanol (35 ml) and concentrated sulfuric acid (6 drops) were added to a solution of crude 2-(2-fluoro-4-hydroxyphenoxy)propionic acid (8.6 g) in dichloroethane (13 ml). The mixture was heated under reflux with stirring for a period of 6.5 hours, cooled, and the solvent was evaporated under reduced pressure. The residue was treated with water and the aqueous mixture was extracted with dichloromethane. The organic phase was washed with a saturated aqueous solution of sodium hydrogen carbonate and then with water. The organic phase was dried over anhydrous magnesium sulfate, filtered and the solvent was evaporated under reduced pressure to give an oil (5.7 g; 54.8%). The oil was purified by vacuum distillation to give n-propyl 2-(2-fluoro-4-hydroxyphenoxy)propionate (3.7 g; 35.5%); bp 210°-220° C. at 0.1 mm Hg.

reactant | n-Propanol | 35 ml | C(CC)O | C3H8O
reactant | 2-(2-fluoro-4-hydroxyphenoxy)propionic acid | 8.6 g | FC1=C(OC(C(=O)O)C)C=CC(=C1)O | C9H9FO4
catalyst | sulfuric acid | 6 drops | S(O)(O)(=O)=O | H2O4S
solvent | dichloroethane | 13 ml | ClC(C)Cl | C2H4Cl2
product | n-propyl 2-(2-fluoro-4-hydroxyphenoxy)propionate | 3.7 g, 35.5% | FC1=C(OC(C(=O)OCCC)C)C=CC(=C1)O | C12H15FO4
